US06429214B1
(7-{4-[Bis-(tert-butoxycarbonyl)-amino]-but-1-ynyl}-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester
A suspension of N-but-3-ynyl-imidodicarbonic acid di-tert-butyl ester (4.65 g, 17.3 mmol), [2-oxo-7-(trifluoro-methanesulfonyloxy)-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester (6.36 g, 17.3 mmol), tetrakis (triphenylphosphine)palladium (2.0 g, 1.7 mmol) and copper (I) iodide (0.49 g, 2.6 mmol) in N-methylpyrrolidine (50 mL; purged with N2) was heated to 60° C. The resulting solution was treated with the original amounts of both catalysts, two additional times, at 1.5 h intervals. After 22 h, the reaction mixture was filtered and concentrated. The resulting dark oil was treated with saturated aqueous NH4Cl (250 mL), extracted with chloroform (3×250 mL), dried (MgSO4) and concentrated to give a dark mixture of oil and foam (16.2 g). Flash chromatography (260 g silica; 5%, then 10%, then 20%, then 40% EtOAc-hexane) gave the title compound (5.2 g, 62% yield) as an impure yellow foam.

reactant | N-but-3-ynyl-imidodicarbonic acid di-tert-butyl ester | 17.3 mmol, 4.65 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCC#C | C14H23NO4
reactant | [2-oxo-7-(trifluoro-methanesulfonyloxy)-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester | 17.3 mmol, 6.36 g | COC(CC1C(NC2=CC(=CC=C2C1)OS(=O)(=O)C(F)(F)F)=O)=O | C13H12F3NO6S
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | N-methylpyrrolidine | 50 mL | CN1CCCC1 | C5H11N
catalyst | copper (I) iodide | 2.6 mmol, 0.49 g | [Cu]I
product | (7-{4-[Bis-(tert-butoxycarbonyl)-amino]-but-1-ynyl}-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | 5.2 g, 62% yield | COC(CC1C(NC2=CC(=CC=C2C1)C#CCCN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)=O | C26H34N2O7
